US09382228B2
A solution of 2,2,2-trimethylacetamide (0.048 g, 0.475 mmol) in DCE (3 mL) was treated with oxalyl chloride (0.042 mL, 0.475 mmol), stirred at RT for 1 h, then heated at 75° C. for 1 h. The mixture was cooled to RT, treated with a solution 5-((2-(pyrimidin-5-yl)pyridin-4-yl)oxy)pyridin-2-amine (0.063 g, 0.237 mmol) and TEA (0.099 mL, 0.712 mmol) in THF (3 mL) and stirred at RT for 1 h. The mixture was treated with water, extracted with DCM (2×) and the combined organics were washed with brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (MeOH/DCM) to afford N-((5-((2-(pyrimidin-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (65 mg, 70%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.23 (s, 1H), 10.44 (s, 1H), 9.41 (s, 2H), 9.24 (s, 1H), 8.62 (d, J=5.7 Hz, 1H), 8.30 (d, J=2.9 Hz, 1H), 8.11 (d, J=9.0 Hz, 1H), 7.83 (d, J=2.4 Hz, 1H), 7.78 (dd, J=9.0, 2.9 Hz, 1H), 6.99 (dd, J=5.7, 2.4 Hz, 1H), 1.21 (s, 9H); MS (ESI) m/z: 393.2 (M+H+).

reactant | 2,2,2-trimethylacetamide | 0.475 mmol, 0.048 g | CC(C(=O)N)(C)C | C5H11NO
reactant | oxalyl chloride | 0.475 mmol, 0.042 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-((2-(pyrimidin-5-yl)pyridin-4-yl)oxy)pyridin-2-amine | 0.237 mmol, 0.063 g | N1=CN=CC(=C1)C1=NC=CC(=C1)OC=1C=CC(=NC1)N | C14H11N5O
reactant | water | O | H2O
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-((5-((2-(pyrimidin-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 65 mg, 70% | N1=CN=CC(=C1)C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(C(C)(C)C)=O | C20H20N6O3
